Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
HCC and liver cirrhosis
 
Major Surgical or Invasive Procedure:
___: Partial hepatectomy with resection of segment III 
lesion.
2.  Hilar lymph node dissection.  All case is robot assisted.

 
History of Present Illness:
___ woman who had hepatitis C infection and a growing 
lesion in the lateral segment of liver consistent with HCC.  She 
presents for robot-assisted resection.
 
Past Medical History:
Cirrhosis, hepatitis C, hypercholesterolemia, diverticulosis, 
chronic diarrhea, colonic polyps.

 
Social History:
___
Family History:
Sister age ___ with breast cancer age ___
Father first mi at age ___ and then died of MI at age ___
Brother with brain tumor age ___
Mother with coronary artery disease, died of cva age ___

 
Physical Exam:
Vitals-98.8, 61, 122/79, 18, 99%
GEN: NAD
HEENT: EOMI, MMM
CV: RRR
PULM: non-labored breathing, 3L NC
ABD: soft, non-distended, appropriately TTP, incisions c/d/I 
with dermabond
NEURO: A&Ox3
EXT: no edema

 
Pertinent Results:
Post Op Labs: ___
WBC-6.4 RBC-4.06 Hgb-12.6 Hct-38.5 MCV-95 MCH-31.0 MCHC-32.7 
RDW-13.0 RDWSD-45.1 Plt ___ PTT-27.8 ___
Glucose-125* UreaN-12 Creat-0.7 Na-143 K-3.6 Cl-106 HCO3-25 
AnGap-12
ALT-55* AST-68* TotBili-0.4
Calcium-8.0* Phos-2.8 Mg-2.0
.
Labs POD 1 ___
WBC-6.3 RBC-4.00 Hgb-12.5 Hct-39.0 MCV-98 MCH-31.3 MCHC-32.1 
RDW-13.3 RDWSD-47.9* Plt ___
Glucose-109* UreaN-9 Creat-0.6 Na-144 K-4.7 Cl-104 HCO3-28 
AnGap-12
ALT-58* AST-74* AlkPhos-55 TotBili-0.5
Calcium-7.7* Phos-2.6* Mg-2.___ y/o female with history of Hep C cirrhosis and finding of HCC 
who is taken to the OR with ___ and Dr. ___  
for robot assisted Partial hepatectomy with resection of segment 
III lesion, hilar lymph node dissection.  
At the time of surgery, the liver was cirrhotic and the lesion 
in the lateral segment
peripherally in segment III was readily apparent, and just under 
2 cm in diameter. A  2 x 1 cm hilar lymph node was also 
resected. The patient tolerated the surgery without 
complication.
.
In the overnight period following the surgery, the diet was 
advanced from clears to regular diet which was well tolerated. 
She was changed over to PO narcotics which were well tolerated 
and pain was managed. She was voiding urine, passing flatus and 
ambulating without assistance. The incisions were all clean, dry 
and intact with some mild bruising. She is discharged to home, 
no services.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lactulose 15 mL PO DAILY 
2. dextroamphetamine-amphetamine 10 mg oral DAILY:PRN 
3. dextroamphetamine-amphetamine 25 mg oral DAILY 
4. Lisinopril 5 mg PO DAILY 
5. Hydrocortisone Acetate Suppository ___AILY:PRN 
hemorrhoids  
6. Fish Oil (Omega 3) 1000 mg PO DAILY 
7. Verapamil SR 120 mg PO Q24H 
8. Furosemide 40 mg PO DAILY:PRN feet swelling 
9. Milk Thistle Extract (milk thistle) 140 mg oral DAILY 
10. Ibuprofen 200-400 mg PO Q4H:PRN Pain - Mild 
11. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral BID 
12. albuterol sulfate 90 mcg/actuation inhalation QID:PRN 
13. TraZODone 200 mg PO QHS:PRN insomnia 
14. Vitamin B Complex 1 CAP PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
Maximum 6 of the 325 mg tablets daily  
2.  Ondansetron 4 mg PO DAILY:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth Daily as needed 
Disp #*5 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
No driving if taking this medication.Taper as tolerated 
RX *oxycodone 5 mg 1 tablet(s) by mouth Every 6 hours as needed 
Disp #*28 Tablet Refills:*0 
4.  albuterol sulfate 90 mcg/actuation inhalation QID:PRN  
5.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral BID  
6.  dextroamphetamine-amphetamine 10 mg oral DAILY:PRN  
7.  dextroamphetamine-amphetamine 25 mg oral DAILY  
8.  Furosemide 40 mg PO DAILY:PRN feet swelling  
9.  Hydrocortisone Acetate Suppository ___AILY:PRN 
hemorrhoids   
10.  Lactulose 15 mL PO DAILY  
11.  Lisinopril 5 mg PO DAILY  
12.  Verapamil SR 120 mg PO Q24H  
13.  Vitamin B Complex 1 CAP PO DAILY  
14. HELD- Fish Oil (Omega 3) 1000 mg PO DAILY  This medication 
was held. Do not restart Fish Oil (Omega 3) until fully healed 
from surgery
___. HELD- Ibuprofen 200-400 mg PO BID:PRN Pain - Mild  This 
medication was held. Do not restart Ibuprofen until fully healed 
from liver surgery
___. HELD- Milk Thistle Extract (milk thistle) 140 mg oral DAILY  
This medication was held. Do not restart Milk Thistle Extract 
until fully healed from surgery

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hepatitis C, HCC and liver cirrhosis, pathology pending

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call Dr. ___ office at ___ for fever > 101, 
chills, nausea, vomiting, diarrhea, constipation, increased 
abdominal pain, pain not controlled by your pain medication, 
swelling of the abdomen or ankles, yellowing of the skin or 
eyes, inability to tolerate food, fluids or medications, the 
incision sites have redness, drainage or bleeding, or any other 
concerning symptoms.
.
You may shower. Allow water to run over the incision sites. Do 
not apply lotions or powders to the incision areas. Leave 
incisions open to the air.
.
No lifting more than 10 pounds
.
No driving if taking narcotic pain medication.
.
Weigh yourself daily. Call Dr. ___ if you gain or 
lose more than 3 pounds in a day or 5 pounds in a week

 
Followup Instructions:
___